US04143139
dl-5-Hydroxy-2,2-dimethyl-7-(1-methyl-4-phenylbutyl)-4-chromanone
4-(3,5-dihydroxyphenyl)-1-phenoxypentane is converted to dl-5-hydroxy-2,2-dimethyl-7(1-methyl-4-phenoxybutyl)-4-chromanone, a light yellow oil:

reactant | 4-(3,5-dihydroxyphenyl)-1-phenoxypentane | OC=1C=C(C=C(C1)O)C(CCCOC1=CC=CC=C1)C | C17H20O3
reactant | dl-5 hydroxy-2,2-dimethyl-7(1-methyl-4-phenoxybutyl)-4-chromanone | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.OC1C(OC2=CC(=CC=C2C1=O)C(CCCOC1=CC=CC=C1)C)(C)C
product | dl-5 Hydroxy-2,2-dimethyl-7-(1-methyl-4-phenylbutyl)-4-chromanone | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.OC1C(OC2=CC(=CC=C2C1=O)C(CCCC1=CC=CC=C1)C)(C)C | InChI=1S/C22H26O3.C18H34N4O2/c1-15(8-7-11-16-9-5-4-6-10-16)17-12-13-18-19(14-17)25-22(2,3)21(24)20(18)23;1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19/h4-6,9-10,12-15,21,24H,7-8,11H2,1-3H3;6-7,14,20-23H,2-5,8-13,15,19H2,1H3
